US07105544B2
N-(3-{4-[3-(BUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-FLUOROPHENYL)CYCLOHEXANECARBOXAMIDE
Example 87 was prepared from 1-(4-fluorophenyl)cyclohexanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}butanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.52 (s, 1H), 7.44 (s, 1H), 7.41–7.37 (m, 2H), 7.29–7.23 (m, 2H), 7.02–6.97 (m, 2H), 6.93 (d, 1H, J=6.8 Hz), 6.80 (br s, 1H), 3.29 (dd, 2H, J=5.6, 11.6 Hz), 2.92 (d, 2H, J=11.6 Hz), 2.46 (m, 1H), 2.36–2.30 (m, 6H), 1.96–1.30 (m, 18H), 1.01 (t, 3H, J=7.6 Hz), ESMS m/e: 508.3 (M+H)+.

reactant | 1-(4-fluorophenyl)cyclohexanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C13H15FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}butanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CCC)=O | C18H29N3O
product | N-(3-{4-[3-(BUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-FLUOROPHENYL)CYCLOHEXANECARBOXAMIDE | C(CCC)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C1(CCCCC1)C1=CC=C(C=C1)F | C31H42FN3O2
